US08614337B2
The crude rotigotine (17.2 g) prepared above in Example 9 was dissolved in 100 mL dichloromethane, and adjusted to be acidic by the addition of an aqueous HCl solution or an organic solution of hydrogen chloride or by the introduction of HCl gas. The mixture was filtered and dried to give 18.2 g rotigotine hydrochloride. Yield: 80%, Purity: 98%.

reactant | rotigotine | 17.2 g | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C=CC=C3O)C2 | C19H25NOS
reactant | HCl | Cl | ClH
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | rotigotine hydrochloride | 18.2 g, Yield: 80% | CCCN(CCC1=CC=CS1)[C@H]2CCC3=C(C2)C=CC=C3O.Cl | InChI=1S/C19H25NOS.ClH/c1-2-11-20(12-10-17-6-4-13-22-17)16-8-9-18-15(14-16)5-3-7-19(18)21;/h3-7,13,16,21H,2,8-12,14H2,1H3;1H/t16-;/m0./s1
